US08071588B2
A mixture of 3-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-3-oxopropanoic acid (0.94 g, 2.414 mmol), [(3-bromo-4-methylphenyl)methyl]amine 1-(3-bromo-4-methylphenyl)methanamine (0.600 g, 3.0 mmol), HATU (1.331 g, 3.5 mmol), and triethylamine (0.976 ml, 7.0 mmol) in dichloromethane (35 ml) was stirred under N2. The mixture was stirred overnight at room temperature. The reaction mixture was diluted with DCM, washed with saturated NaHCO3, followed by saturated NaCl. The organic layer was dried over Na2SO4, and then evaporated to dryness which gave viscous syrup. This was chromatographed on an 80 g Combi-Flash Column in silica with DCM-MeOH (0-8%). The product fractions were combined to give N-[(3-bromo-4-methylphenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}propanediamide (1.31 g, 95%) as a pale amber oil. LC-MS m/z 571.3 (M+H)+, 0.83 min (ret time).

reactant | 3-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-3-oxopropanoic acid | 2.414 mmol, 0.94 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CC(=O)O)=O)CC | C19H27N5O4
reactant | [(3-bromo-4-methylphenyl)methyl]amine 1-(3-bromo-4-methylphenyl)methanamine | 3.0 mmol, 0.600 g | BrC=1C=C(C=CC1C)CN.BrC=1C=C(C=CC1C)CN | 2C8H10BrN
reactant | HATU | 3.5 mmol, 1.331 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 7.0 mmol, 0.976 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-[(3-bromo-4-methylphenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}propanediamide | 1.31 g, 95% | BrC=1C=C(C=CC1C)CNC(CC(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2)=O | C27H35BrN6O3
